US08487108B2
To a suspension of NaH (763 mg, 19.1 mmol) and (R)-tert-butyl 3-((R)-(3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (1.55 g, 4.77 mmol) in CH3CN (20 mL) at 0-5° C. was added dropwise a solution of 4-bromobutyronitrile (3.17 g, 21.5 mmol) in CH3CN (5 mL), the reaction mixture was stirred for overnight at rt. The reaction mixture was poured into saturated aqueous NH4Cl, ethyl acetate (50 mL) was added. The organic layer was washed with water (3×20 mL) and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by preparative HPLC to afford (R)-tert-butyl 3-((R)-(3-chlorophenyl)(3-cyanopropoxy)methyl)piperidine-1-carboxylate (0.44 g, 21% yield). 1H NMR (CD3OD, 400 MHz) δ 7.38-7.28 (m, 3H), 7.22 (m, 1H), 4.22 (m, 1H), 4.02 (d, 1H), 3.86 (d, 1H), 3.34 (m, 2H), 2.77 (q, 2H), 2.56 (t, 2H), 1.62 (m, 1H), 1.59 (m, 1H), 1.43 (s, 9H), 1.35-1.25 (m, 3H), 1.12 (d, 1H).

reactant | NaH | 19.1 mmol, 763 mg | [H-].[Na+]
reactant | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 4.77 mmol, 1.55 g | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H24ClNO3
reactant | 4-bromobutyronitrile | 21.5 mmol, 3.17 g | BrCCCC#N | C4H6BrN
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(3-cyanopropoxy)methyl)piperidine-1-carboxylate | 0.44 g, 21% yield | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCCC#N | C21H29ClN2O3
